US04775671
A suspension of 13.3 g (40 mmol) of ethyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate in 85 ml of tetrahydrofuran is heated to 50° and a suspension of 1.06 g (48.7 mmol) of lithium borohydride in 15 ml of tetrahydrofuran is then added dropwise to the solution obtained. The white suspension is subsequently heated to boiling under reflux for 70 minutes. The mixture is cooled to 20° and 54 ml of a solution consisting of 27 ml of conc. hydrochloric acid and 27 ml of water is added dropwise thereto. The tetrahydrofuran is distilled off in vacuo and the aqueous residue is made alkaline with 25 percent ammonia. The mixture is left to crystallize in an ice-bath for 1 hour, the precipitated material is filtered off under suction, rinsed with water and dried at 80° in a high vacuum. There is obtained (S)-8-chloro-12,12 a-dihydro-1-(hydroxymethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of decomposition point 256°-258°.

reactant | ethyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 40 mmol, 13.3 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CC1)=O | C16H14ClN3O3
reactant | lithium borohydride | 48.7 mmol, 1.06 g | [BH4-].[Li+]
reactant | hydrochloric acid | 27 ml | Cl | ClH
reactant | water | 27 ml | O | H2O
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (S)-8-chloro-12,12 a-dihydro-1-(hydroxymethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3CO)CC1)=O | C14H12ClN3O2
